US07176242B2
1-Butyl-1H-indole-6-carboxylic acid (0.450 g) was dissolved in dimethyl sulfoxide (10 mL). Potassium tert-butoxide (0.317 g) was added and the mixture was stirred for 10 min at room temperature. Iodobutane (0.33 mL) was added and the mixture was allowed to stir at room temperature for 6 h. Water was then added and the mixture was partioned between ethyl acetate, water, and brine, and dried over magnesium sulfate, filtered, and concentrated. Silica gel chromatography using heptane/dichloromethane (30/70) gave butyl 1-butyl-1H-indole-6-carboxylate (0.429 g). MS (ESI+) for C17H23NO2+H1 m/z 274.20 (M+H)+.

reactant | 1-Butyl-1H-indole-6-carboxylic acid | 0.450 g | C(CCC)N1C=CC2=CC=C(C=C12)C(=O)O | C13H15NO2
reactant | Potassium tert-butoxide | 0.317 g | CC(C)([O-])C.[K+]
reactant | Iodobutane | 0.33 mL | ICCCC | C4H9I
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | butyl 1-butyl-1H-indole-6-carboxylate | 0.429 g | C(CCC)N1C=CC2=CC=C(C=C12)C(=O)OCCCC | C17H23NO2
